US06518268B1
Preparation of 5-(2-(3,4-Dichlorobenzoyloxy)benzylidene)thiazolidine-2,4-dione
A solution of 3,4-dichlorobenzoylchloride in THF was slowly added to a solution of 5-(hydroxybenzylidene)thiazolidine-2,4-dione (1.5 eq.) and TEA (1.5 eq.) in THF. The resulting reaction was stirred for 1-2 h at which time the solid was filtered and filtrate was concentrated under reduced pressure to yield light yellow solid. The solid was dissolved in EtOAc followed by washing with sat. aq. K2CO3. The organic phase was separated, and dried over Na2SO4 followed by concentration under reduced pressure to yield pure compound.

reactant | 3,4-dichlorobenzoylchloride | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
reactant | 5-(hydroxybenzylidene)thiazolidine-2,4-dione | 1.5 eq. | OC(C1=CC=CC=C1)=C1C(NC(S1)=O)=O | C10H7NO3S
reactant | THF | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-(2-(3,4-Dichlorobenzoyloxy)benzylidene)thiazolidine-2,4-dione | ClC=1C=C(C(=O)OC2=C(C=C3C(NC(S3)=O)=O)C=CC=C2)C=CC1Cl | C17H9Cl2NO4S
